US05374641
To 0.38 g of methyl 4-[2-formamido-2-(3-pyridyl)ethyl]phenylacetate in 10 ml of methanol-1,4 dioxane (1:1) in solution was added 5 ml of 4% sulfuric acid, and stirred under heating at 60° C. for one hour, which was then poured into saturated aqueous sodium chloride solution for extraction with ethyl acetate. The ethyl acetate phase obtained was washed in saturated aqueous sodium chloride solution and dried over magnesium sulfate, followed by distillation of the solvent, to produce 0.11 g of methyl 4-[2-amino-2-(3-pyridyl)ethyl]phenylacetate.

reactant | methyl 4-[2-formamido-2-(3-pyridyl)ethyl]phenylacetate | 0.38 g | C(=O)NC(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C17H18N2O3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[2-amino-2-(3-pyridyl)ethyl]phenylacetate | 0.11 g | NC(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C16H18N2O2
